US07160894B2
(Step A) 5-Amino-4-vinylisoquinoline (Intermediate 1)
A suspension of 5-amino-4-bromoisoquinoline obtained in Reference Example 1 (10 g), tri(n-butyl)vinyltin (21.0 ml, Tokyo Kasei Kogyo), tetrakis(triphenylphosphine)palladium(0) (1.04 g, Aldrich), and 2,6-di-tert-butyl-p-cresol (11.3 mg, Tokyo Kasei Kogyo) in toluene (90 ml) was stirred at 110° C. for 15 hours. The reaction mixture was cooled to room temperature, then added with 10% aqueous potassium fluoride (90 ml), and stirred for 4 hours. The reaction mixture was added with ethyl acetate (100 ml), and the precipitates were removed by filtration. Then, the organic layer was separated, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and then the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=3:1) to obtain the title compound (7.00 g).

reactant | 5-amino-4-bromoisoquinoline | NC1=C2C(=CN=CC2=CC=C1)Br | C9H7BrN2
reactant | tri(n-butyl)vinyltin | 21.0 ml | C(CCC)C(=C(CCCC)CCCC)[Sn]
reactant | 2,6-di-tert-butyl-p-cresol | 11.3 mg | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
reactant | potassium fluoride | 90 ml | [F-].[K+]
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.04 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 5-Amino-4-vinylisoquinoline | 7.00 g | NC1=C2C(=CN=CC2=CC=C1)C=C | C11H10N2
